US09085570B2
A solution of 3-(4-bromophenyl)propanoic acid (14.5 g, 63.60 mmol, 1.00 equiv) in thionyl chloride (80 mL) was refluxed for 2 h. The reaction mixture was cooled to room temperature and then concentrated under vacuum to give 15.5 g (99%) of 3-(4-bromophenyl)propanoyl chloride as a light yellow oil.

reactant | 3-(4-bromophenyl)propanoic acid | 63.60 mmol, 14.5 g, 1.00 equiv | BrC1=CC=C(C=C1)CCC(=O)O | C9H9BrO2
reactant | thionyl chloride | 80 mL | S(=O)(Cl)Cl | Cl2OS
product | 3-(4-bromophenyl)propanoyl chloride | 15.5 g, 99% | BrC1=CC=C(C=C1)CCC(=O)Cl | C9H8BrClO
